US08466115B2
1-benzhydryl-3-(2-bromo-4-(diethoxymethyl)phenyl)azetidine-3-carbonitrile
To a solution of 2-bromo-4-(diethoxymethyl)-1-fluorobenzene (Preparation 15, 10.0 g, 36.0 mmol) in THF (125 mL) was added 1-benzhydrylazetidine-3-carbonitrile (13.4 g, 54.1 mmol) and KHMDS (10.8 g, 54.1 mmol). The reaction mixture is left stirring at room temperature for 1 hour. Next, the reaction mixture is concentrated to an oil under vacuum, diluted with EtOAc, and washed 2× with water. The organic phase was dried (Na2SO4) and concentrated under vacuum. The crude material was chromatographed (220 g Redi-Sep column) eluting from 100% heptane to 20:80 EtOAc:heptane to afford the intermediate (13.7 g, 75%) as a solid. 1HNMR (CDCl3) δ ppm: 7.73 (1H), 7.48-7.44 (5H), 7.37-23 (6H), 7.13 (1H), 5.47 (1H), 4.33 (1H), 4.14 (2H), 3.65-3.52 (4H), 3.41 (2H), 1.29-1.25 (6H).

reactant | 2-bromo-4-(diethoxymethyl)-1-fluorobenzene | 36.0 mmol, 10.0 g | BrC1=C(C=CC(=C1)C(OCC)OCC)F | C11H14BrFO2
reactant | 1-benzhydrylazetidine-3-carbonitrile | 54.1 mmol, 13.4 g | C(C1=CC=CC=C1)(C1=CC=CC=C1)N1CC(C1)C#N | C17H16N2
reactant | KHMDS | 54.1 mmol, 10.8 g | C[Si](C)(C)[N-][Si](C)(C)C.[K+]
solvent | THF | 125 mL | C1CCOC1 | C4H8O
product | 1-benzhydryl-3-(2-bromo-4-(diethoxymethyl)phenyl)azetidine-3-carbonitrile | 13.7 g, 75% | C(C1=CC=CC=C1)(C1=CC=CC=C1)N1CC(C1)(C#N)C1=C(C=C(C=C1)C(OCC)OCC)Br | C28H29BrN2O2
